US07842713B2
Preparation of Intermediate 220 h: 3,5-Dihydroxy-4-((E)-3-phenyl-allyl)-benzoic acid methyl ester
To a solution of 3,5-bis-methoxymethoxy-4-((E)-3-phenyl-allyl)-benzoic acid (220 g) (18 g, 0.05 mol) in MeOH (300 mL) was added catalytic amount of conc. H2SO4 (3 mL) in one portion. The mixture was refluxed overnight. The solution was concentrated. The residue was dissolved in CH2Cl2 (75 mL) and washed with sat. NaHCO3 (25 mL). The organic layers were dried and concentrated to give a brown solid (12 g, 73% yield). 1H NMR (400 MHz, CDCl3): δ 9.63 (s, 2H), 7.11-7.34 (m, 5H), 6.93 (s, 2H), 6.32 (s, 2H), 3.77 (s, H), 3.42 (s, 2H).

reactant | 3,5-bis-methoxymethoxy-4-((E)-3-phenyl-allyl)-benzoic acid | 0.05 mol, 220 g | COCOC=1C=C(C(=O)O)C=C(C1C\C=C\C1=CC=CC=C1)OCOC | C20H22O6
reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 300 mL | CO | CH4O
product | 3,5-Dihydroxy-4-((E)-3-phenyl-allyl)-benzoic acid methyl ester | 12 g, 73% yield | COC(C1=CC(=C(C(=C1)O)C\C=C\C1=CC=CC=C1)O)=O | C17H16O4
